US05366972
a) 2-Chloro-3-cyano-6-(imidazol-1-yl)-4-methylpyridine
A solution of 2,6-dichloro-3-cyano-4-methylpyridine (5.6 g) and imidazole (2.04 g) in dimethylformamide (10 mL) was heated at 130° C. for 1.25 hours. After cooling to room temperature the mixture was fractionated directly on silica gel with chloroform/ethanol gradient) to give 1.5 g of the title compound, suitable for use in the next reaction.

reactant | 2,6-dichloro-3-cyano-4-methylpyridine | 5.6 g | ClC1=NC(=CC(=C1C#N)C)Cl | C7H4Cl2N2
reactant | imidazole | 2.04 g | N1C=NC=C1 | C3H4N2
reactant | chloroform ethanol | C(Cl)(Cl)Cl.C(C)O
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 2-Chloro-3-cyano-6-(imidazol-1-yl)-4-methylpyridine | 1.5 g | ClC1=NC(=CC(=C1C#N)C)N1C=NC=C1 | C10H7ClN4
